US04079181
To a solution of p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate (106 mg) in benzene (5ml) is added silica gel F-254 (500 mg) distributed by E. Merck Ag., and the mixture is shaken at room temperature for 1 hour. The insoluble material is removed by filtration, and washed several times with chloroform. The filtrate and washed solution are combined and evaporated under reduced pressure to give p-nitrobenzyl 3-hydroxy-7-phenoxyacetamido-3-cephem-4-carboxylate (60 mg). Yield: 66.3%. m.p. 95.5°-99.5° C IR: νmaxCHC13 3400, 1785, 1685, 1605. NMR: δCDC13 2.03s2H, 4.60s2H, 5.07+5.37ABq(4)2H, 5.37d(4)1H, 5.68dd(9;4)1H, 6.83-8.32m9H.

reactant | p-nitrobenzyl α-[4-mercapto-3-phenoxyacetamido-2-oxoazetidin-1-yl]-α-(2-bromo-1-hydroxyethylidene)acetate | 106 mg | SC1C(C(N1C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(CBr)O)=O)NC(COC1=CC=CC=C1)=O | C22H20BrN3O8S
solvent | benzene | 5ml | C1=CC=CC=C1 | C6H6
product | p-nitrobenzyl 3-hydroxy-7-phenoxyacetamido-3-cephem-4-carboxylate | 60 mg, Yield: 66.3% | OC=1CS[C@H]2N(C1C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O | C22H19N3O8S
